US05110798
N-[N-[5-(hypoxanthin-9-yl)pentyloxycarbonyl]-L-leucyl]-L-methionine
0.850 g (0.0032 mole) of leucyl-methionine and 0.824 g (0.0096 mole) of sodium bicarbonate were dissolved in 40 ml of bidistilled water, in a 150 ml flask. To the resulting aqueous solution, having pH=8, a suspension of 1.05 g (0.0032 mole) of 9-[5-chlorocarbonyloxy)pentyl]hypoxanthine hydrochloride in 40 ml of toluene was added in ice bath.

reactant | leucyl-methionine | 0.0032 mole, 0.850 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)O | C11H22N2O3S
reactant | sodium bicarbonate | 0.0096 mole, 0.824 g | C([O-])(O)=O.[Na+]
reactant | hypoxanthine hydrochloride | Cl.N1C=NC=2N=CNC2C1=O
solvent | water | 40 ml | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-[N-[5-(hypoxanthin-9-yl)pentyloxycarbonyl]-L-leucyl]-L-methionine | N1C=NC=2N(C=NC2C1=O)CCCCCOC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)O | C22H34N6O6S
